US08232403B2
A suspension of 3-({N-[3,5-bis(trifluoromethyl)benzyl]-N-(2-methyl-2H-tetrazol-5-yl)amino}methyl)-2-[N′-(cyclopentylmethyl)-N′-ethylamino]quinoline-7-carbonitrile (40 mg, 0.06 mmol) and 2N LiOH aq. (2.0 mL) in EtOH (2 mL) is stirred and refluxed for 2 hours. The reaction mixture is cooled to room temperature and then diluted with 1N HCl and ethyl acetate. The organic layer is washed with brine, dried over magnesium sulfate, filtered and concentrated to give 3-({N-[3,5-bis(trifluoromethyl)benzyl]-N-(2-methyl-2H-tetrazol-5-yl)amino}methyl)-2-[N′-(cyclopentylmethyl)-N′-ethylamino]quinoline-7-carboxylic acid.

reactant | 3-({N-[3,5-bis(trifluoromethyl)benzyl]-N-(2-methyl-2H-tetrazol-5-yl)amino}methyl)-2-[N′-(cyclopentylmethyl)-N′-ethylamino]quinoline-7-carbonitrile | 0.06 mmol, 40 mg | FC(C=1C=C(CN(C=2N=NN(N2)C)CC=2C(=NC3=CC(=CC=C3C2)C#N)N(CC)CC2CCCC2)C=C(C1)C(F)(F)F)(F)F | C30H30F6N8
reactant | LiOH | 2N, 2.0 mL | [Li+].[OH-]
reactant | EtOH | 2 mL | CCO | C2H6O
solvent | HCl | 1N | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-({N-[3,5-bis(trifluoromethyl)benzyl]-N-(2-methyl-2H-tetrazol-5-yl)amino}methyl)-2-[N′-(cyclopentylmethyl)-N′-ethylamino]quinoline-7-carboxylic acid | FC(C=1C=C(CN(C=2N=NN(N2)C)CC=2C(=NC3=CC(=CC=C3C2)C(=O)O)N(CC)CC2CCCC2)C=C(C1)C(F)(F)F)(F)F | C30H31F6N7O2
